US05409930
A solution of 1.84 g (8.98 mmol) of 3-hydroxy-6,7-dimethoxyquinoline in 22 mL of dry pyridine is cooled to 0° C. and 3.20 mL (5.38 g; 19.1 mmol) of trifluoromethanesulfonic anhydride is added via syringe. The solution is allowed to warm to 22° C. and stirred for 4 hours. The solution is then partitioned between ethyl acetate (150 mL) and water (100 mL). The aqueous layer is back extracted with ethyl acetate (100 mL) and the combined organics dried (Na2SO4) and evaporated. The resulting residue is chromatographed on silica gel (eluting with chloroform) to give a white solid which is recrystallized from hexane to give 6,7-dimethoxyquinolin-3-yl trifluoromethanesulfonate. (mp 82.5°-84° C.)

reactant | 3-hydroxy-6,7-dimethoxyquinoline | 8.98 mmol, 1.84 g | OC=1C=NC2=CC(=C(C=C2C1)OC)OC | C11H11NO3
reactant | trifluoromethanesulfonic anhydride | 19.1 mmol, 3.20 mL, 5.38 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 22 mL | N1=CC=CC=C1 | C5H5N
product | 6,7-dimethoxyquinolin-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=NC2=CC(=C(C=C2C1)OC)OC)(F)F | C12H10F3NO5S
